* Copyright (c) 2016 Linear Technology Corporation.  All rights reserved.
* Author: Dan Eddleman
*
*SOAtherm Heat Sink Model
***************************************************************

.subckt copper Tc Tinterface Tfin 
R1 Tfin Ambient {Rtheta}
V1 Ambient 0 {Tambient}
R2 Tinterface Tc {Rinterface}
O§HeatSink Tinterface 0 Tfin 0 Copper
.model Copper LTRA(len={Volume_mm3/Area_Contact_mm2} R={2.5/Area_Contact_mm2} L=0 C={400*8.96e-6*Area_Contact_mm2})
.param Tambient=85 Depth_mm=10 Area_Contact_mm2=100 Rtheta=10 Rinterface={100/Area_Contact_mm2}
.ends copper

.subckt aluminum Tc Tinterface Tfin 
R1 Tfin Ambient {Rtheta}
V1 Ambient 0 {Tambient}
R2 Tinterface Tc {Rinterface}
O§HeatSink Tinterface 0 Tfin 0 Aluminum
.model Aluminum LTRA(len={Volume_mm3/Area_Contact_mm2} R={1/(0.22*Area_Contact_mm2)} L=0 C={896*2.7e-6*Area_Contact_mm2})
.param Tambient=85 Depth_mm=10 Area_Contact_mm2=100 Rtheta=10 Rinterface={100/Area_Contact_mm2}
.ends aluminum